US05486525
A solution of 1,2-diaminobenzene (5.00 g, 46.3 mmol) in acetic anhydride (36.5 mL) was heated for 17 hours at 90° C. and then stirred for 17 hours at ambient temperature. The reaction mixture was taken to pH 9 by dropwise addition of NH4OH, with ice added as necessary to keep the mixture cool, followed by cooling in an ice bath. The resulting precipitate was filtered, rinsed with H2O, and dried in a vacuum oven to give 5.28 g of 2-methylbenzimidazole as a brown solid.

reactant | 1,2-diaminobenzene | 46.3 mmol, 5.00 g | NC1=C(C=CC=C1)N | C6H8N2
reactant | NH4OH | [NH4+].[OH-]
reactant | acetic anhydride | 36.5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methylbenzimidazole | 5.28 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
